US04439425
The hydrochloride named above can be prepared in the following manner: 4.62 g of Z-Phe-Tyr-NH2 are hydrogenated in 50 ml of methanol in the presence of 4 ml of hydrochloric acid in methanol (2.53 N) and 0.5 g of palladium-carbon (10%). After filtering the catalyst and evaporating the filtrate the HCl.H-Phe-Tyr-NH2 is obtained as a white foam. Rf-value on silicagel (with chloroform-methanol) is 0.42.

reactant | hydrochloride | Cl | ClH
reactant | Z-Phe-Tyr-NH2 | 4.62 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N)C(=O)OCC1=CC=CC=C1 | C26H27N3O5
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 2.53 N | CO | CH4O
solvent | palladium-carbon | 0.5 g | [C].[Pd]
product | H-Phe-Tyr-NH2 | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N | C18H21N3O3
